US08754242B2
Iodine (0.10 g, 0.38 mmol) is added to a solution of (1RS,2SR,6RS,7SR)-10-oxa-tricyclo[5.2.1.02,6]decane-3,5-dione (2.1 g, 12.65 mmol) in methanol (50 ml) and the reaction mixture is stirred for 2 hours at room temperature. The solvent is then removed under reduced pressure, dichloromethane is added and the organic layer is washed with saturated aqueous sodium thiosulfate solution, water and brine. The organic layer is dried over anhydrous magnesium sulfate, filtered and the filtrate is evaporated under reduced pressure to give (1RS,2SR,6RS,7SR)-5-methoxy-10-oxatricyclo[5.2.1.02,6]dec-4-en-3-one and used without further purification in the next step.

reactant | Iodine | 0.38 mmol, 0.10 g | II | I2
reactant | (1RS,2SR,6RS,7SR)-10-oxa-tricyclo[5.2.1.02,6]decane-3,5-dione | 12.65 mmol, 2.1 g | C12C3C(CC(C3C(CC1)O2)=O)=O | C9H10O3
reactant | methanol | 50 ml | CO | CH4O
product | (1RS,2SR,6RS,7SR)-5-methoxy-10-oxatricyclo[5.2.1.02,6]dec-4-en-3-one | COC1=CC(C2C3CCC(C12)O3)=O | C10H12O3
